US06624163B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-{[(3-methoxy-propionyl)-methyl-amino]-methyl}-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-methylaminomethyl-benzamide and 3-methoxy-propionyl chloride, the title compound was prepared as light yellow crystals (46% yield). MS: m/e=499(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-methylaminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CNC)=O)N2CCOCC2 | C21H24N4O3S
reactant | 3-methoxy-propionyl chloride | COCCC(=O)Cl | C4H7ClO2
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-{[(3-methoxy-propionyl)-methyl-amino]-methyl}-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN(C)C(CCOC)=O)=O)N2CCOCC2 | C25H30N4O5S
